US06716837B1
6-(2-(N,N-Dimethylamino)ethyl)-1H-indole (compound 2)
To a stirred solution of 6-Chloroacetyl-1-pivaloylindole (300 mg, 1.08 mmol) in THF (5 ml) were added successively, at room temperature, NaHCO3 (453.6 mg, 5.4 mmol) and a solution of 2M N,N-Dimethylamine in THF (2.7 ml, 5.4 mmol). The reaction mixture was then refluxed for four hours. After cooling to room temperature, the mixture was diluted with water (15 ml) and the organic layer extracted twice with dichloromethane (2×50 ml). After washing sequentially with water and brine, the organic layer was dried over sodium sulfate, and the solvent removed in vacuo. LiAlH4 (10.8 ml, 1M in THF, 10.8 mmol) was added to a solution of the crude product in THF (5 ml) and the reaction mixture heated at reflux overnight. After cooling to room temperature, the reaction mixture was quenched with Rochelle's salt (1 M, 3 mL) and silica gel and passed through a frit using methanolic ammonia in dichloromethane (0-10%). The 5% fraction was further purified by flash chromatography (silica gel, 3% methanolic ammonia in dichloromethane) yielding the product (176 mg, 87%) of the title product.

reactant | 6-Chloroacetyl-1-pivaloylindole | 1.08 mmol, 300 mg | ClCC(=O)C1=CC=C2C=CN(C2=C1)C(C(C)(C)C)=O | C15H16ClNO2
reactant | NaHCO3 | 5.4 mmol, 453.6 mg | C(=O)(O)[O-].[Na+]
reactant | N,N-Dimethylamine | 2M | CNC | C2H7N
reactant | LiAlH4 | 10.8 mmol, 1M, 10.8 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5.4 mmol, 2.7 ml | C1CCOC1 | C4H8O
product | 6-(2-(N,N-Dimethylamino)ethyl)-1H-indole | 176 mg, 87% | CN(C)CCC1=CC=C2C=CNC2=C1 | C12H16N2
